US08293917B2
To a solution of 2-methyl-propane-2-sulfinic acid [1-(2-methanesulfonyl-thiazol-5-yl)-prop-(Z)-ylidene]-amide (93 mg, 0.29 mmol) in tetrahydrofurane (5 mL) was added L-selectride (1 M in THF, 0.58 mL, 0.58 mmol) dropwise at −78° C. The reaction was stirred for 2.5 h at −78° C. The reaction mixture was quenched with sat. ammonium chloride solution (100 mL), and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×10 ml). The organic layers were combined, washed with brine (10 ml), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 0-100% ethyl acetate in hexanes to yield 2-methyl-propane-2-sulfinic acid [(S)-1-(2-methanesulfonyl-thiazol-5-yl)-propyl]-amide (80 mg, 86%) as an oil. Major diastereomer was 96.4% de by HPLC.

reactant | 2-methyl-propane-2-sulfinic acid [1-(2-methanesulfonyl-thiazol-5-yl)-prop-(Z)-ylidene]-amide | 0.29 mmol, 93 mg | CS(=O)(=O)C=1SC(=CN1)\C(\CC)=N/S(=O)C(C)(C)C | C11H18N2O3S3
reactant | L-selectride | 0.58 mmol, 1 M, 0.58 mL | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | tetrahydrofurane | 5 mL | O1CCCC1 | C4H8O
product | 2-methyl-propane-2-sulfinic acid [(S)-1-(2-methanesulfonyl-thiazol-5-yl)-propyl]-amide | 80 mg, 86% | CS(=O)(=O)C=1SC(=CN1)[C@H](CC)NS(=O)C(C)(C)C | C11H20N2O3S3
